US05409943
(b) N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-phenylguanidine
A mixture of N-[3-(2-methylbenzyloxy)pyrid-2-yl]-N'-phenylthiourea (1.76 g, 0.005 mol), yellow mercuric oxide (1.31 g, 0.006 mol) and methanolic ammonia (40 ml) was stirred for 3 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 1.2 g (72%), m.p. 157°-158 ° C.

reactant | N-[3-(2-methylbenzyloxy)pyrid-2-yl]-N'-phenylthiourea | 0.005 mol, 1.76 g | CC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C=CC=C1 | C20H19N3OS
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(2-Methylbenzyloxy)pyrid-2-yl]-N'-phenylguanidine | CC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=CC=C2)C=CC=C1 | C20H20N4O
